US04394515
8-Aminodibenzo[b,f]thiepin-3-carboxylic Acid Hydrochloride Salt
850 Mg. 8-amino-3-cyanodibenzo[b,f]-thiepin is refluxed in a mixture of 20 cc. acetic acid and 20 cc. concentrated hydrochloric acid for 48 hours. The suspended solid is filtered, washed with some acetic acid, dried overnight under vacuum at 70° C. to yield 600 mg. pure compound, m.p. 308°-311° C.

reactant | 8-amino-3-cyanodibenzo[b,f]-thiepin | NC=1C=CC2=C(C=CC3=C(S2)C=C(C=C3)C#N)C1 | C15H10N2S
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 8-Aminodibenzo[b,f]thiepin-3-carboxylic Acid Hydrochloride Salt | Cl.NC=1C=CC2=C(C=CC3=C(S2)C=C(C=C3)C(=O)O)C1 | InChI=1S/C15H11NO2S.ClH/c16-12-5-6-13-10(7-12)3-1-9-2-4-11(15(17)18)8-14(9)19-13;/h1-8H,16H2,(H,17,18);1H
